US06727264B1
2-METHYL-N-{3-[1-((5E)-5-(4-NITROPHENYL)-5-{[4-(TRIFLUOROMETHOXY)PHENYL]HYDRAZONO}PENTYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE:
Prepared by Procedure E and Scheme M using 2-methyl-N-(3-{1-[5-(4-nitrophenyl)-5-oxopentyl]-4-piperidinyl}phenyl)propanamide and 4-(trifluoromethoxy)phenylhydrazine hydrochloride: ESMS m/e: 626.2 (M+H)+.

reactant | 2-methyl-N-(3-{1-[5-(4-nitrophenyl)-5-oxopentyl]-4-piperidinyl}phenyl)propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCC(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C26H33N3O4
reactant | 4-(trifluoromethoxy)phenylhydrazine hydrochloride | Cl.FC(OC1=CC=C(C=C1)NN)(F)F
product | 2-METHYL-N-{3-[1-((5E)-5-(4-NITROPHENYL)-5-{[4-(TRIFLUOROMETHOXY)PHENYL]HYDRAZONO}PENTYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCC\C(=N/NC1=CC=C(C=C1)OC(F)(F)F)\C1=CC=C(C=C1)[N+](=O)[O-])C | C33H38F3N5O4
